US07439382B2
2-Fluoro-N-methoxycarbonylaniline (3.38 g, 20.0 mmol) prepared as described in Example 1 was dissolved in 77.6% sulfuric acid (20 g) to prepare a solution. 1-Methylcyclohexyl alcohol (2.28 g, 20.0 mol) was added dropwise to the solution under a nitrogen atmosphere over a period of 30 min while stirring and heating the solution at 70° C. After the completion of the dropwise addition, the reaction solution was vigorously stirred at the same temperature for 5 hr. Subsequently, the reaction solution was cooled to room temperature. n-Hexane (100 mL) was then added to the cooled reaction solution to carry out extraction for separation of the mixture into a sulfuric acid layer and an organic layer. n-Hexane (100 mL) was again added to the sulfuric acid layer to carry out extraction for separation of an organic layer. The organic layers thus obtained were combined, and the combined organic layer was washed with water and saturated brine in that order. The solvent was then removed from the organic layer by distillation to give 2-fluoro-4-(1-methylcyclohexyl)-N-methoxycarbonylaniline as an oil. The oil was further subjected to separation and purification by column chromatography on silica gel to give 843 mg of 2-fluoro-4-(1-methylcyclohexyl)-N-ethoxycarbonylaniline as a target compound (yield 15.8%, 4-substituted compound: 5-substituted compound=100:0).

reactant | 2-Fluoro-N-methoxycarbonylaniline | 20.0 mmol, 3.38 g | FC1=C(NC(=O)OC)C=CC=C1 | C8H8FNO2
reactant | 1-Methylcyclohexyl alcohol | 20.0 mol, 2.28 g | CC1(CCCCC1)O | C7H14O
reactant | n-Hexane | 100 mL | CCCCCC | C6H14
solvent | sulfuric acid | 20 g | S(O)(O)(=O)=O | H2O4S
product | 2-fluoro-4-(1-methylcyclohexyl)-N-methoxycarbonylaniline | FC1=C(NC(=O)OC)C=CC(=C1)C1(CCCCC1)C | C15H20FNO2
